US06677368B2
4-(2,6-Difluoro-phenyl)-3-[1-[4-(3-piperidin-1-yl-propionyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepin-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
4-(3-Piperidin-1-yl-propionyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde (80 mg, 0.26 mmol) was condensed with 4-(2,6-difluoro-phenyl)-1,3-dihydro-indol-2-one (61 mg, 0.25 mmol) and piperidine (1 drop) in ethanol (3 mL) at rt for over the weekend. The precipitate was filtered, washed with ethanol and dried to give 80 mg of the titled compound as a yellow solid.

reactant | 4-(3-Piperidin-1-yl-propionyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde | 0.26 mmol, 80 mg | N1(CCCCC1)CCC(=O)N1C2=C(CCCC1)NC(=C2)C=O | C17H25N3O2
reactant | 4-(2,6-difluoro-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 61 mg | FC1=C(C(=CC=C1)F)C1=C2CC(NC2=CC=C1)=O | C14H9F2NO
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(2,6-Difluoro-phenyl)-3-[1-[4-(3-piperidin-1-yl-propionyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepin-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 80 mg | FC1=C(C(=CC=C1)F)C1=C2/C(/C(NC2=CC=C1)=O)=C/C1=CC=2N(CCCCC2N1)C(CCN1CCCCC1)=O | C31H32F2N4O2
